US06346534B1
In Reaction Scheme D, heteroaryl ketone (vb) is modified by treatment with a brominating reagent such as copper(II) bromide, bromine, or the like in an organic solvent such as chloroform, ethyl acetate, ether or mixture thereof at a temperature of 25-100° C., preferably at reflux in a mixture of chloroform and ethyl acetate, for a period of 2-12 hours gives the corresponding alpha-bromoketon (vib). Alternatively, heteroaryl ketone (vb) may be treated with N-bromosuccinamide, or bromine in an inert solvent such as carbon tetrachloride or chloroform with a radical initiator such as AIBN, at reflux to give the bromoketone (vib). The bromoketone (vib) is substituted by treatment with a azide salt such sodium azide, potasium azide or the like in an inert solvent such as DMF, tetrahydrofuran, ether, water or mixture thereof at 0-50° C. for a period of 2-12 hours. The azido group is converted to an amino group when it is dissolved in an appropriate solvent, such a ethanol or methanol with hydrochloric acid, and (a) to the solution is added palladium-carbon or Raney Nickel as the catalyst and the mixture is reacted at room temperature for one to 12 hours under hydrogen atmosphere, or (b) to the solution is added triethyl phorsphite and the mixture is reacted at 0-25° C. for 1-24 hours to provide the amino ketone hydrochloride (viib). The amino ketone (viib) is cyclized with malononitrile upon treatment with a strong base such as sodium hydroxide or potassium hydroxide in an inert solyent such as acetonitrile, water, ethanol or mixture thereof at 25-100° C. for 2-24 hours to give the aminopyrrole (viiib). The aminopyrrole (viiib) is condensed with a biselectrophilic reagent such as diethyl ethoxymethylenemalonate in an inert solvent such as ethanol or dioxane at a temperature of 25-100° C. for 12-24 hours, then cyclized in a high boiling solvent such as phenyl ether at 200-265° C. for 0.5-2 hours to provide pyrrolo[1,2-a]pyrimidone (ixb).

reactant | aminopyrrole | NC=1NC=CC1 | C4H6N2
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | ethanol | C(C)O | C2H6O
reactant | phenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | pyrrolo[1,2-a]pyrimidone | N1C=2N(C=CC1=O)C=CC2 | C7H6N2O
